US07476492B2
b. Synthesis of 1-Ethylcyclooctyl Methacrylate
To a 500-mL 3-necked round bottom flask equipped with a 250-mL pressure equalizing addition funnel, a nitrogen inlet with thermocouple and an overhead stirrer was added 32.5 g (0.208 mol) of 1-ethyl-1-cyclooctanol and 100 mL of anhydrous tetrahydrofuran. The addition funnel was charged with 150 mL (0.239 mol, 15% excess) of n-butyllithium (1.6M in hexane) which was then added to the cooled alcohol over 2 hours. The addition funnel was then charged with a solution of 25 g (0.239 mol) of freshly distilled methacryloyl chloride in 50 mL of dry tetrahydrofuran which was then added slowly with cooling over 1.5 hours. The reaction mixture was allowed to warm to room temperature with stirring overnight after which 100 mL of saturated sodium bicarbonate was carefully added with stirring. The mixture was stirred for 1 hour at which time it was diluted with 500 mL of diethyl ether and the organics washed with water, brine and dried for 1 hour over anhydrous magnesium sulfate. Filtration and removal of the solvent at reduced pressure resulted in a light-colored oil which was distilled twice from Na2CO3 and phenothiazine through a based-washed 15-cm Vigreux to yield 24 g (51%) of the title compound (bp 84° C. @ 1 mmHg) as a clear, colorless oil.

reactant | 1-ethyl-1-cyclooctanol | 0.208 mol, 32.5 g | C(C)C1(CCCCCCC1)O | C10H20O
reactant | n-butyllithium | 0.239 mol, 1.6M, 150 mL | C(CCC)[Li]
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-Ethylcyclooctyl Methacrylate | 24 g, 51% | C(C(=C)C)(=O)OC1(CCCCCCC1)CC | C14H24O2
